US06897231B2
C. 3-Bromo-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile
To a solution of 13.67 g (61.56 mmol) of 3-bromo-1H-indazole-5-carbonitrile and 2.06 g (10.8 mmol, 0.175 equiv.) of p-toluenesulfonic acid monohydrate in 247 mL of anhydrous tetrahydrofuran (THF) was added 11.2 mL (123 mmol, 2.00 equiv.) of 3,4-dihydro-2H-pyran. The mixture was refluxed under a nitrogen atmosphere for 14 h. The reaction was quenched with saturated aqueous sodium bicarbonate (sat. aq. NaHCO3). The mixture was extracted twice with EtOAc. The combined organics were washed with 2× sat. aq. NaHCO3, 1× sat. aq. NaCl, and dried over Na2SO4. Chromatography of the crude material on 200 g of silica gel using 30% EtOAc in hexanes afforded the title compound (14.34 g, 76% yield): ES-MS (m/z) 306 [M+1]+.

reactant | 3-bromo-1H-indazole-5-carbonitrile | 61.56 mmol, 13.67 g | BrC1=NNC2=CC=C(C=C12)C#N | C8H4BrN3
reactant | p-toluenesulfonic acid monohydrate | 10.8 mmol, 2.06 g, 0.175 equiv. | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 3,4-dihydro-2H-pyran | 123 mmol, 11.2 mL, 2.00 equiv. | O1CCCC=C1 | C5H8O
solvent | tetrahydrofuran | 247 mL | O1CCCC1 | C4H8O
product | 3-Bromo-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile | 14.34 g, 76% yield | BrC1=NN(C2=CC=C(C=C12)C#N)C1OCCCC1 | C13H12BrN3O
